US09382188B2
I) ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate
To a solution of ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylpropanoate (6.70 g) in THF (50 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in THF (27.4 mL) at room temperature, and the mixture was directly stirred for 5 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.44 g) as a yellow oil.

reactant | ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylpropanoate | 6.70 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(CC(=O)OCC)C1CC1 | C29H36N2O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 27.4 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate | 2.44 g | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)CO | C13H18N2O3
